US05585376
3-Nitro-benzoic acid tert-butyl ester
A solution of 3-nitrobenzoic acid (1.4 g) in dry toluene (10 ml) was treated with N,N-dimethylformamide di-tertbutyl acetal (10 ml). The mixture was heated under reflux for 18 h then cooled, diluted with ethyl acetate and washed consecutively with water, 8% sodium bicarbonate solution and saturated brine. The dried organic phase was evaporated to give the title compound (1.02 g) as a yellow oil.

reactant | 3-nitrobenzoic acid | 1.4 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | N,N-dimethylformamide di-tertbutyl acetal | 10 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Nitro-benzoic acid tert-butyl ester | 1.02 g | C(C)(C)(C)OC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H13NO4
